* AD9632an Spice Macro-model
* Description: Amplifier
* Generic Desc: 250MHz op amp, gain=2
* Developed by: SMR
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (03/1997)
* Copyright 1997, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*    open loop gain and phase vs frequency
*    output clamping voltage and current
*    input common mode range
*    CMRR vs freq
*    Slew rate
*    Output currents are reflected to V supplies
*    I bias is static and will not vary with Vcm
*    Vos is static and will not vary with Vcm 
*    Step response is modeled at gain of 2 w/1k load 
*    Slew rate is based on 10-90% change in output step
*
* END Notes:
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD9632an 1 2 99 50 61   


* input stage *

gn 99 2 (36,98) 1
r1 1 18 250k
r2 2 18 250k
cin1 1 98 1.2e-12
cin2 2 98 1.2e-12
ibias1 50 1 8e-6
ibias2 99 2 8e-6
q1 5 17 6 qn1
q2 7 2 8 qn1
eos 17 1 poly(2) (23,98) (34,98) 2e-3 1 0
r3 99 5 50.23
r4 99 7 50.23
r5 6 9 47.63
r6 8 9 47.63
c2 5 7 2.26pf
itail 9 50 0.02
irev 50 99 0.019

* vnoise generation

dn1 30 31 dn
vn1 31 98 0
rn1 31 98 100e-5
vn2 30 98 0.4

hn1 34 98 vn1 1
rn2 34 98 1

* inoise generation

vn3 35 98 0
rn3 35 98 4k

hn2 36 98 vn3 1
rn4 36 98 1e-6

* gain stage,clamping - open loop gain=64dB * 

* pd at 105khz *

gm1 99 10 poly(1) 7 5 0 0.02 0 2.3e-3
gm2 50 10 poly(1) 7 5 0 0.02 0 2.3e-3
r7  99 10 79617
r8  10 50 79617
c3  99 10 13.33pf
c4  10 50 13.33pf
vcl1 99 14 1.65
vcl2 15 50 1.65
d1 10 14 dx
d2 15 10 dx

******** frequency shaping stage ********
***** zero at 200mhz, pole at 600mhz ****

e1 11 98 10 98 3
rz1 11 12 2
rz2 12 13 1
l1 13 98 0.8e-9

***** common mode reference

eref 98 0 poly(2) 99 0 50 0 0 0.5 0.5

***** vcm generation

ecm1 19 98 18 98 38e-5 
rvcm1 19 20 1.9e-9
rvcm2 20 21 1e-12
lcm1 21 98 1.516e-18

ecm2 22 98 20 98 25000
rvcm3 22 23 25e-8
rvcm4 23 24 1e-12
lcm2 24 98 1.990e-18

***** buffer to output stage

gbuf 98 16 12 98 1e-2
rbuf1 98 16 100

***** output current mirrored to supplies

fo1 98 110 vcd 1
do1 110 111 dx
do2 112 110 dx
vi1 111 98 0
vi2 98 112 0
fsy 99 50 poly(2) vi1 vi2 4.73e-3 1 1
iq 99 50 11e-3

***** output stage

go3 60 99 99 16 0.1
go4 50 60 16 50 0.1
r03 60 99 10
r04 60 50 10
vcd 60 62 0
lo1 62 61 0.75e-7
ro2 61 98 1e9
do5 16 70 dx
do6 71 16 dx
vo1 70 60 0.27
vo2 60 71 0.27

.model dx d(is=1e-15)
.model dn d(af=0.6 kf=1.4e-10 is=1e-15)
.model qn1 npn(af=0 kf=1e-30 is=1e-15 bf=1000)
.ends AD9632an





